US06172085B2
1-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-benzyl-N-(3,3-diphenylpropyl)-4-piperidinamine trihydrochloride
The 1-[(5-amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-benzyl-N-(3,3-diphenylpropyl)-4-piperidinamine obtained above (1.0 g) was treated with 4N HCl solution in ethanol and the resulting trihydrochloride was recrystallized from ethanol/diethyl ether to provide 0.65 g of the title compound. Yield 53%.

reactant | 1-[(5-amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-benzyl-N-(3,3-diphenylpropyl)-4-piperidinamine | NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)N(CCC(C2=CC=CC=C2)C2=CC=CC=C2)CC2=CC=CC=C2)C1C)C)C | C40H49N3O
reactant | HCl | 4N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-benzyl-N-(3,3-diphenylpropyl)-4-piperidinamine trihydrochloride | 0.65 g, Yield 53% | Cl.Cl.Cl.NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)N(CCC(C2=CC=CC=C2)C2=CC=CC=C2)CC2=CC=CC=C2)C1C)C)C | InChI=1S/C40H49N3O.3ClH/c1-29-30(2)39-37(31(3)38(29)41)26-40(4,44-39)28-42-23-20-35(21-24-42)43(27-32-14-8-5-9-15-32)25-22-36(33-16-10-6-11-17-33)34-18-12-7-13-19-34;;;/h5-19,35-36H,20-28,41H2,1-4H3;3*1H
